US04273779
0.5 g of 5-(p-fluorobenzylamino)-pyridine-2-carboxylic acid are dissolved in 5 ml of warm acetic acid and dry hydrogen chloride is added until the solution is saturated. Thereupon, nitrogen is bubbled into the solution for several minutes, the solid formed is collected and washed with diethyl ether to yield the 5-(p-fluorobenzylamino)-pyridine-2-carboxylic acid hydrochloride melting at 248°-253° with decomposition.

reactant | 5-(p-fluorobenzylamino)-pyridine-2-carboxylic acid | 0.5 g | FC1=CC=C(CNC=2C=CC(=NC2)C(=O)O)C=C1 | C13H11FN2O2
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 5-(p-fluorobenzylamino)-pyridine-2-carboxylic acid hydrochloride | Cl.FC1=CC=C(CNC=2C=CC(=NC2)C(=O)O)C=C1 | InChI=1S/C13H11FN2O2.ClH/c14-10-3-1-9(2-4-10)7-15-11-5-6-12(13(17)18)16-8-11;/h1-6,8,15H,7H2,(H,17,18);1H
